US06358972B1
5-(Benzimidazol-2-yl)-3-(1-Methylpiperidin-4-yl)-4-Aza-1H-Indole
O-Trifluoromethanesulfonyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-4-aza-1H-indole (150 mg, 0.413 mmol) and 1-t-butyloxycarbonyl-2-chlorobenzimidazole (104 mg, 0.413 mmol) were converted to the title compound by the procedure of Example 7 except that after chromatography there was a mixture of protected and de-protected products. Therefore, 80 mg of the mixture was dissolved in 20 mL of dichloromethane and 1 mL of trifluoroacetic acid was added. The mixture was stirred for 2 hours and then taken up in water. The reaction was partitioned between 3 mL of 1N aqueous sodium hydroxide and 3 mL of 3:1 chloroform:isopropanol to give 51.2 mg. (37%). MS(FD) m/e 331.8 (M+).

reactant | O-Trifluoromethanesulfonyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-4-aza-1H-indole | 0.413 mmol, 150 mg | FC(S(=O)(=O)OC=1N=C2C(=CNC2=CC1)C1CCN(CC1)C)(F)F | C14H16F3N3O3S
reactant | 1-t-butyloxycarbonyl-2-chlorobenzimidazole | 0.413 mmol, 104 mg | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)Cl | C12H13ClN2O2
product | 5-(Benzimidazol-2-yl)-3-(1-Methylpiperidin-4-yl)-4-Aza-1H-Indole | N1=C(NC2=C1C=CC=C2)C=2N=C1C(=CNC1=CC2)C2CCN(CC2)C | C20H21N5
